US06921763B2
To a solution of tert-butyl 4-[4-amino-3-(4-[(benzyloxy)carbonyl]aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (5.0 g, 0.0092 mol) in terahydrofuran (150 mL) 10% palladium on carbon (1.0 g) was added and the reaction mixture was hydrogenated on a Parr shaker over 96 hours. The catalyst was removed by filtration through a Celite pad and the filtrate was concentrated under reduced pressure. The residue was triturated in n-heptane and the precipitate was collected by filtration and dried to yield tert-butyl 4-[4-amino-3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate (2.51 g, 0.0061 mol) as an off-white solid.

reactant | tert-butyl 4-[4-amino-3-(4-[(benzyloxy)carbonyl]aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.0092 mol, 5.0 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC(=O)OCC2=CC=CC=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C29H33N7O4
solvent | terahydrofuran | 150 mL, 1.0 g | O1CCCC1 | C4H8O
product | tert-butyl 4-[4-amino-3-(4-aminophenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-piperidinecarboxylate | 0.0061 mol, 2.51 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)N)C2CCN(CC2)C(=O)OC(C)(C)C | C21H27N7O2
